US06642389B2
b] 4-Chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole
18.5 g of the above prepared 4,5-dimethyl-2-(4-trifluoromethyl-phenyl)-oxazole 3-oxide (72 mmol) was dissolved in 250 ml of CH2Cl2 and treated with 7.909 ml of POCl3 (86.4 mmol). The reaction mixture was refluxed over night and then quenched by carefully pouring onto crashed ice/3N NaOH. Separation of the layers, additional extraction of the aqueous phase with CH2Cl2 and drying of the combined organic layers over magnesium sulfate left, after evaporation of the solvents, 19.78 g of crude product as light brown crystals, which was used as such for the next step.

reactant | 4,5-dimethyl-2-(4-trifluoromethyl-phenyl)-oxazole 3-oxide | 72 mmol | CC=1[N+](=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)[O-] | C12H10F3NO2
reactant | POCl3 | 86.4 mmol, 7.909 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9ClF3NO
